US07452894B2
6-(2-Furyl)-9-(4-methylbenzyl)-9H-purine-2-carbonitrile (Example 173)
A solution of 2-chloro-6-(2-furyl)-9-(4-methylbenzyl)-9H-purine (0.10 g, 0.31 mmol) and Et4NCN (0.10 g, 0.62 mmol) in acetonitrile (10 mL) was treated with DABCO (0.07 g, 0.62 mmol), stirred for 48 h, concentrated in vacuo, dissolved in chloroform (50 mL), washed with water (2×30 mL), dried (MgSO4) and concentrated in vacuo to give the title compound (56 mg, 57%) as a pale green solid.

reactant | 2-chloro-6-(2-furyl)-9-(4-methylbenzyl)-9H-purine | 0.31 mmol, 0.10 g | ClC1=NC(=C2N=CN(C2=N1)CC1=CC=C(C=C1)C)C=1OC=CC1 | C17H13ClN4O
reactant | DABCO | 0.62 mmol, 0.07 g | C1CN2CCN1CC2 | C6H12N2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 6-(2-Furyl)-9-(4-methylbenzyl)-9H-purine-2-carbonitrile | 56 mg, 57% | O1C(=CC=C1)C1=C2N=CN(C2=NC(=N1)C#N)CC1=CC=C(C=C1)C | C18H13N5O
